US06410534B1
Step D: (R)-2-(tert-Butoxycarbonylamino)-N-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]propionamide
To (R)-N-(tert-butoxycarbonyl)alanine (220 mg, 1.16 mmol) in dry CH2Cl2 (2 mL) under argon were added PYBOP (604 mg, 1.16 mmol), 1-amino-7-(tert-butyldiphenylsilyloxy)naphthalene hydrochloride, as described above in Step C, (250 mg, 0.58 mmol), and N,N-diisopropylethylamine (0.40 mL, 2.3 mmol). The reaction mixture was stirred for 3 hrs, then partitioned between CH2Cl2 (250 mL) and 10% aqueous citric acid (75 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with CH2Cl2-20% ethyl acetate to yield the desired product as a white foam.

reactant | (R)-N-(tert-butoxycarbonyl)alanine | 1.16 mmol, 220 mg | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | PYBOP | 1.16 mmol, 604 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1-amino-7-(tert-butyldiphenylsilyloxy)naphthalene hydrochloride | Cl.NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C
reactant | N,N-diisopropylethylamine | 2.3 mmol, 0.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-Butoxycarbonylamino)-N-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]propionamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C34H40N2O4Si
